US08357706B2
Prepared using General Procedure 13. A 20 mL microwave vial was charged with (R)-tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-1-ylcarbamate INT-32 (58.4 mg, 0.16 mmol), 5-(5-bromooxazol-2-yl)-2-isopropoxybenzonitrile INT-40 (50 mg, 0.16 mmol), potassium carbonate (68 mg, 0.5 mmol) and a 3:1 mixture of dimethylethylene glycol/H2O (2 mL). The reaction mixture was degassed by bubbling N2 gas through the stirring solution for 10 min. Pd(PPh3)4 ((3.9 mg, 0.004 mmol) was added and the solution degassed for additional 2 min. The vial was subjected to microwave irradiation at 100° C. for 30 min. The solvent was removed and the residue dissolved in EA (10 mL), washed with brine, and then dried over MgSO4. The product was purified by chromatography (EA/hexanes) to afford 50 mg (67%) of (R)-tert-butyl 4-(2-(3-cyano-4-isopropoxyphenyl)oxazol-5-yl)-2,3-dihydro-1H-inden-1-ylcarbamate INT-42 as an off-white solid. LCMS-ESI (m/z) calculated for C27H29N3O4: 459.5; found 460.2 [M+H]+, tR=4.1 min. 1H NMR (400 MHz, CDCl3) δ 8.32-8.03 (m, 2H), 7.60 (dd, J=8.6, 4.1 Hz, 1H), 7.32-7.22 (m, 3H), 7.00 (d, J=8.9 Hz, 1H), 5.19 (dd, J=15.5, 7.5 Hz, 1H), 4.82-4.56 (m, 2H), 3.12 (ddd, J=16.3, 9.0, 3.5 Hz, 1H), 2.95 (dt, J=16.3, 8.1 Hz, 1H), 2.70-2.51 (m, 1H), 1.83 (dq, J=13.1, 8.2 Hz, 1H), 1.43 (s, 9H), 1.41-1.35 (m, 6H).

reactant | (R)-tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-1-ylcarbamate | CC1(OB(OC1(C)C)C1=C2CC[C@H](C2=CC=C1)NC(OC(C)(C)C)=O)C | C20H30BNO4
reactant | 5-(5-bromooxazol-2-yl)-2-isopropoxybenzonitrile | BrC1=CN=C(O1)C=1C=CC(=C(C#N)C1)OC(C)C | C13H11BrN2O2
reactant | potassium carbonate | 0.5 mmol, 68 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylethylene glycol H2O | 2 mL | CC(C(C)O)O.O
product | (R)-tert-butyl 4-(2-(3-cyano-4-isopropoxyphenyl)oxazol-5-yl)-2,3-dihydro-1H-inden-1-ylcarbamate | 50 mg, 67% | C(#N)C=1C=C(C=CC1OC(C)C)C=1OC(=CN1)C1=C2CC[C@H](C2=CC=C1)NC(OC(C)(C)C)=O | C27H29N3O4
